US07220744B2
d) 4-[5-(2,2,2-Trifluoro-ethyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 1.03 mmol 4-[5-(2,2-difluoro-vinyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester in 7.5 dimethylsulphoxide and 0.3 ml water was added 7.18 mmol potassium fluoride and the mixture was heated at 120° C. for 2 h. The mixture was then diluted with ethyl acetate and washed sequentially with water and brine. The organic phase was dried over sodium sulphate and concentrated in vacuo. The residue was purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a yellow crystalline solid (yield 90%). MS (m/e): 352.3 (M+H+, 100%).

reactant | 4-[5-(2,2-difluoro-vinyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | 1.03 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C=C(F)F | C14H19F2N3O2S
reactant | dimethylsulphoxide | CS(=O)C | C2H6OS
reactant | water | 0.3 ml | O | H2O
reactant | potassium fluoride | 7.18 mmol | [F-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-(2,2,2-Trifluoro-ethyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | yield 90% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)CC(F)(F)F | C14H20F3N3O2S
